US06288054B1
A solution of lithium aluminum hydride (65 mL of a 1M tetrahydrofuran solution, 0.065 mol) was added dropwise over 15 min to a mechanically stirred and refluxing solution of 5-carboxymethyl-2-thioxo-2,3-dihydrobenzothiazole (11.27 g, 0.050 mol) in anhydrous tetrahydrofuran (150 mL). The resulting mixture was stirred at reflux for 90 min then cooled in an ice-bath and cautiously treated with 2N hydrochloric acid (250 mL). The resulting mixture was diluted with water (250 mL) and extracted three times with ethyl acetate (250, 250, and 150 mL). The combined extracts were washed with brine (2×200 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to approximately 140 mL volume. Some solid was present at this point. The mixture was diluted with ether (100 mL) and filtered. The filter cake was washed with ether and dried in vacuo to afford 5-(2-hydroxyethyl)-2-thioxo-2,3-dihydrobenzothiazole (8.58 g) as pale tan crystals.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-carboxymethyl-2-thioxo-2,3-dihydrobenzothiazole | 0.050 mol, 11.27 g | C(=O)(O)CC=1C=CC2=C(NC(S2)=S)C1 | C9H7NO2S2
reactant | hydrochloric acid | 2N, 250 mL | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | 250 mL | O | H2O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 5-(2-hydroxyethyl)-2-thioxo-2,3-dihydrobenzothiazole | 8.58 g | OCCC=1C=CC2=C(NC(S2)=S)C1 | C9H9NOS2
